US08809369B2
A mixture of 2-{5-[4-(2,4-dimethyl-phenyl)-piperazin-1-yl]-pyridin-3-yl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (100 mg, 0.21 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (60 mg, 0.31 mmol), 4-dimethylaminopyridine (38 mg, 0.31 mmol), cyclopropane sulfonic acid amide (76 mg, 0.63 mmol) in dichloromethane (10 mL) was refluxed for 12 h. Removal of the solvent to afford the oil residue. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% formic acid in water) afforded cyclopropanesulfonic acid (2-{5-[4-(2,4-dimethyl-phenyl)-piperazin-1-yl]-pyridin-3-yl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carbonyl)-amide (12 mg, 10%) as a light yellow solid: MS (ESI) M+1=574.3.

reactant | 2-{5-[4-(2,4-dimethyl-phenyl)-piperazin-1-yl]-pyridin-3-yl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.21 mmol, 100 mg | CC1=C(C=CC(=C1)C)N1CCN(CC1)C=1C=C(C=NC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C29H34N4O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.31 mmol, 60 mg | Cl.CN(CCCN=C=NCC)C
reactant | cyclopropane sulfonic acid amide | 0.63 mmol, 76 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
catalyst | 4-dimethylaminopyridine | 0.31 mmol, 38 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | cyclopropanesulfonic acid (2-{5-[4-(2,4-dimethyl-phenyl)-piperazin-1-yl]-pyridin-3-yl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carbonyl)-amide | 12 mg, 10% | CC1=C(C=CC(=C1)C)N1CCN(CC1)C=1C=C(C=NC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)NS(=O)(=O)C1CC1 | C32H39N5O3S
